US04925591
In an aqueous solution of sodium hydroxide, 2.0 g of 4-dodecyloxybenzyl bromide synthesized in the same manner as described in Referential Example 17 was reacted under reflux with 1.0 g of 4-hydroxy-3-chlorophenol for 8 hours, the thus-obtained solution was put into ice-cooled hydrochloric acid, and the precipitate was recovered by filtration, washed, dried and purified by the silica gel column chromatography to obtain 0.8 g of 4-dodecyloxybenzyl(4-hydroxy-2-chlorophenyl) ether.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-dodecyloxybenzyl bromide | 2.0 g | C(CCCCCCCCCCC)OC1=CC=C(CBr)C=C1 | C19H31BrO
reactant | 4-hydroxy-3-chlorophenol | 1.0 g | OC1=C(C=C(C=C1)O)Cl | C6H5ClO2
reactant | hydrochloric acid | Cl | ClH
product | 4-dodecyloxybenzyl(4-hydroxy-2-chlorophenyl) ether | 0.8 g | C(CCCCCCCCCCC)OC1=CC=C(CC=2C(=C(C=CC2O)OC2=C(C(=C(C=C2)O)CC2=CC=C(C=C2)OCCCCCCCCCCCC)Cl)Cl)C=C1 | C50H68Cl2O5
